US07897595B2
A mixture of 3-iodo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol (100 mg, 250 μmol), K2CO3 (200 mg), MeI (2 ml) and acetone (4 ml) was stirred for 16 h at ambient temperature. The reaction mixture was concentrated in vacuo and purified by column chromatography rendering 25.5 mg (25%) of 3-iodo-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine and 41.9 mg (41%) of 3-iodo-1,5-dimethyl-7-(trifluoroacetyl)-1,5,6,7,8,9-hexahydro-2H-pyrido[2,3-d]azepin-2-one. 1H-NMR of O-methylated product (CDCl3) δ 7.79 (2× s, 1H), 3.95 (2× s, 3H), 3.94-3.78 (br m, 2H), 3.59 (br m, 1H), 3.56-3.36 (br m, 1H), 3.22 (m, 1H), 3.08 (br m, 2H), 1.30 (2× d, 3H) ppm. 1H-NMR N-methylated product (CDCl3) δ 7.80 (s, 1H), 3.97-3.65 (br m, 3H), 3.68 (2× s, 3H), 3.44-3.01 (m, 4H), 1.30 (2× d, 3H) ppm. A mixture of 3-iodo-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (25.5 mg, 62.0 μmol), K2CO3 (17.0 mg, 124 μmol) and MeOH (7 ml) was heated for 5 h at 60° C. The reaction mixture was concentrated in vacuo and purified by column chromatography to furnish 5.90 mg (30%) of 3-iodo-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (DMSO-d6) δ 7.84 (s, 1H), 3.83 (s, 3H), 3.00-2.90 (m, 3H), 2.86-2.77 (m, 3H), 2.65 (dd, 1H), 1.21 (d, 3H) ppm.

reactant | 3-iodo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol | 250 μmol, 100 mg | IC1=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N=C1O | C12H12F3IN2O2
reactant | K2CO3 | 200 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 2 ml | CI | CH3I
reactant | 3-iodo-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 62.0 μmol, 25.5 mg | IC1=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N=C1OC | C13H14F3IN2O2
reactant | K2CO3 | 124 μmol, 17.0 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 7 ml | CO | CH4O
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | 3-iodo-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 5.90 mg, 30% | IC1=CC2=C(CCNCC2C)N=C1OC | C11H15IN2O
